US06881746B2
A solution of 4-[2-cyano-2-(4-trifluoromethoxyphenyl)vinyl]benzoic acid methyl ester (9.0 g, 25.92 mmol) in THF (50 mL) was stirred and cooled to −20° C. A solution of sodium borohydride in THF (100 mL) was added during 20 minutes. The cooling bath was removed and the mixture was stirred for two hours at room temperature and then kept at 5° C. for 16 hours. Ice (100 g) was added and the mixture was neutralised (pH 4-5) with 1 M hydrochloric acid (50 mL). The resulting mixture was extracted with DCM and washed with brine. The organic phase was dried (MgSO4), purified (Norite A), filtered and evaporated. The residue was dried at 40° C. in vacuo to afford 8.8 g (97%) of 4-[2-cyano-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid methyl ester.

reactant | 4-[2-cyano-2-(4-trifluoromethoxyphenyl)vinyl]benzoic acid methyl ester | 25.92 mmol, 9.0 g | COC(C1=CC=C(C=C1)C=C(C1=CC=C(C=C1)OC(F)(F)F)C#N)=O | C18H12F3NO3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-[2-cyano-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid methyl ester | 8.8 g, 97% | COC(C1=CC=C(C=C1)CC(C1=CC=C(C=C1)OC(F)(F)F)C#N)=O | C18H14F3NO3
